US07601856B2
Following method B, dimethylsulfamoyl chloride (60 mL, 550 mmol) was added to a gently refluxing solution of 4-aminophenol (55 g, 500 mmol) and triethylamine (56 g, 550 mmol) in tetrahydrofuran (350 mL). The reaction mixture was refluxed for 2 h and then cooled to room temperature and then filtered to remove the solids. The filtrate was diluted with ethyl acetate and washed with 2 N HCl and brine, dried (Na2SO4) and concentrated to give crude N′-(4-hydroxy-phenyl)-N,N-dimethyl-sulfamide (108 g). The crude N′-(4-hydroxy-phenyl)-N,N-dimethyl-sulfamide (108 g, 500 mmol) was dissolved in dichloromethane (750 mL) and 2,3-dichloro-5,6-dicyanobenzoquinone (130 g, 550 mmol) was added. The reaction mixture was stirred for 35 minutes and then filtered. The solids were washed with dichloromethane and the filtrate was concentrated. The crude material was purified by column chromatography to provide the benzoquinoneimine (85 g). Potassium t-butoxide (0.30 g, 2.5 mmol) was added to a cooled (2° C.) solution of 2-cyclohexanonecarboxylic acid ethyl ester (4.2 mL, 25 mmol) in tetrahydrofuran (60 mL). The reaction mixture was stirred at 2° C. for 10 min and then a solution of benzoquinoneimine (5.4 g, 25 mmol) in tetrahydrofuran (45 mL) was added. After 1 hour, the mixture was quenched with glacial acetic acid (0.14 mL) and stirred at 2° C. for 40 min, and then concentrated. The crude material was dissolved in ethyl acetate and washed with brine, dried (Na2SO4), and concentrated. The material was purified by flash column chromatography (elution with 30% ethyl acetate-hexane) to provide the desired phenolic cyclohexanone (6.8 g). The phenolic cyclohexanone (0.96 g, 2.5 mmol) was dissolved in dioxane (10 mL) and 6 N hydrochloric acid (10 mL) was added and the mixture was heated to reflux for 2.5 hours. The reaction mixture was diluted with water and made basic with concentrated ammonium hydroxide. The mixture was extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried (Na2SO4) and concentrated. Analytical analysis indicated complete furan formation, but incomplete sulfonyl urea hydrolysis. The crude mixture was dissolved in acetic acid (10 mL) and 6 N HCl (10 mL) was added. The mixture was refluxed for 12 hours. After cooling to room temperature, the reaction mixture was cooled to 0° C. and concentrated ammonium hydroxide was added until basic. The mixture was extracted with ethyl acetate. The combined organic extracts were washed with 20% aqueous ammonium hydroxide and brine, dried (Na2SO4) and concentrated. Column chromatography purification provided 6,7,8,9-tetrahydro-dibenzofuran-2-ylamine (74 mg).

reactant | cyclohexanone | 2.5 mmol, 0.96 g | C1(CCCCC1)=O | C6H10O
reactant | hydrochloric acid | 6 N, 10 mL | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | HCl | 6 N, 10 mL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 6,7,8,9-tetrahydro-dibenzofuran-2-ylamine | 74 mg | C1=C(C=CC=2OC3=C(C21)CCCC3)N | C12H13NO
